US08106190B2
tert-Butyl {(1S,2S)-2-[(4-bromo-5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate, trimethyl boroxine and potassium carbonate were suspended in a mixed solvent of 1,4-dioxane (16 ml) and water (4 ml), tetrakis(triphenylphosphine)palladium was added thereto, followed by stirring at 110° C. for 1 day. By post-treating the reaction liquid, tert-butyl {(1S,2S)-2-[(5-chloro-2-cyano-4-methylphenyl)amino]cyclohexyl}carbamate was obtained.

reactant | tert-Butyl {(1S,2S)-2-[(4-bromo-5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate | BrC1=CC(=C(C=C1Cl)N[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C18H23BrClN3O2
reactant | trimethyl boroxine | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 16 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 ml | O | H2O
product | tert-butyl {(1S,2S)-2-[(5-chloro-2-cyano-4-methylphenyl)amino]cyclohexyl}carbamate | ClC=1C(=CC(=C(C1)N[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N)C | C19H26ClN3O2
